US05958942
ii) Synthesis of 2-ethyl-5-chloromethylimidazo[1,2-a]pyridine-hydrochloride
To a mixture solution consisting of 8.8 ml (120.0 mmol) of thionyl chloride and 10 ml of methylene chloride was added, 4.23 g (24.0 mmol) of 2-ethyl-5-hydroxymethylimidazo[1,2-a]pyridine with small portions. The reaction mixture was stirred for one hour at room temperature. Then, the solvent and excess volume of thionyl chloride were distilled off under reduced pressure. To the residual white solid was added 30 ml of toluene. The mixture was stirred well, and the solvent was distilled off under reduced pressure. This process repeated twice to give 5.44 g of a crude product (99.0%, white solid), which was used for the subsequent reaction without purification.

reactant | thionyl chloride | 120.0 mmol, 8.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-ethyl-5-hydroxymethylimidazo[1,2-a]pyridine | 24.0 mmol, 4.23 g | C(C)C=1N=C2N(C(=CC=C2)CO)C1 | C10H12N2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-ethyl-5-chloromethylimidazo[1,2-a]pyridine-hydrochloride | 5.44 g, 99.0% | Cl.C(C)C=1N=C2N(C(=CC=C2)CCl)C1 | InChI=1S/C10H11ClN2.ClH/c1-2-8-7-13-9(6-11)4-3-5-10(13)12-8;/h3-5,7H,2,6H2,1H3;1H
